US07968540B2
Step F. 6-Methyl-4H-imidazo[1,5,4-de]quinoxaline-2,5(1H,6H)-dione
A solution of 1-[(4-methylphenyl)sulfonyl]-6-methyl-4H-imidazo[1,5,4-de]quinoxaline-2,5(1H,6H)-dione (600 mg, 1.68 mmol) in conc. H2SO4 (3 mL) was heated at 50° C. for 30 min, then poured into H2O at 0° C. (25 mL). The resulting precipitate was isolated by filtration, washed with H2O, and dried in vacuo to give the title compound. MS: m/z=204 (M+1).

reactant | 1-[(4-methylphenyl)sulfonyl]-6-methyl-4H-imidazo[1,5,4-de]quinoxaline-2,5(1H,6H)-dione | 1.68 mmol, 600 mg | CC1=CC=C(C=C1)S(=O)(=O)N1C(N2CC(N(C=3C=CC=C1C23)C)=O)=O | C17H15N3O4S
reactant | H2O | O | H2O
solvent | H2SO4 | 3 mL | OS(=O)(=O)O | H2O4S
product | 6-Methyl-4H-imidazo[1,5,4-de]quinoxaline-2,5(1H,6H)-dione | CN1C(CN2C=3C(=CC=CC13)NC2=O)=O | C10H9N3O2
